US07790756B2
A mixture of 5-nitro-1H-indazole (50 g, 0.31 mol) and 10% Pd/C (5.0 g) in MeOH (400 mL) was heated under H2 (30 psi) atmosphere overnight. After the mixture was filtered, the filtrate was concentrated to give 1H-indazol-5-ylamine as a yellow solid (40 g, 97% yield). 1H NMR (300 MHz, DMSO-d6) δ 12.50 (br s, 1H), 7.70 (s, 1H), 7.22 (d, J=6.6 Hz, 1H), 6.77 (d, J=6.6 Hz, 1H), 6.74 (s, 1H), 4.72 (br s, 1H); MS (ESI) m/z: 134.2 (M+H+).

reactant | 5-nitro-1H-indazole | 0.31 mol, 50 g | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
solvent | MeOH | 400 mL | CO | CH4O
catalyst | Pd/C | 5.0 g | [Pd] | Pd
product | 1H-indazol-5-ylamine | 40 g, 97% yield | N1N=CC2=CC(=CC=C12)N | C7H7N3
